US07531553B2
Preparation XLIII: 1-Chloro-2-(2-chloro-ethoxy)-4-nitrobenzene
A mixture of 2-chloro-5-nitrophenol (4 g, 23 mmol), 1-bromo-2-chloroethane (9 mL, 115 mmol), and K2CO3 (8 g, 58 mmol) in DMF (50 mL) was heated at 80° C. for 18 h. The mixture was diluted with water and extracted several times with EtOAc. The combined organic layers were washed with 1N NaOH (aq) and concentrated in vacuo to yield the title compound and a bromo adduct contaminant.

reactant | 2-chloro-5-nitrophenol | 23 mmol, 4 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H4ClNO3
reactant | 1-bromo-2-chloroethane | 115 mmol, 9 mL | BrCCCl | C2H4BrCl
reactant | K2CO3 | 58 mmol, 8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-Chloro-2-(2-chloro-ethoxy)-4-nitrobenzene | ClC1=C(C=C(C=C1)[N+](=O)[O-])OCCCl | C8H7Cl2NO3
